US04090025
1-(2-methoxyethyl)-4-phenyl-2-imidazolidone
Approximately 10.9 g. of 1-(2-methoxyethyl)-4-phenyl-4-imidazolin-2-one and 1 g. of 10% palladium on carbon in 100 ml. of ethanol is hydrogenated in a Parr Shaker apparatus at 30 psig of hydrogen for 45 minutes. The catalyst is filtered, washed with ethanol, and the filtrate is concentrated to give the title compound as a waxy white solid; m.p. 82°-83° C.

reactant | 1-(2-methoxyethyl)-4-phenyl-4-imidazolin-2-one | COCCN1C(NC(=C1)C1=CC=CC=C1)=O | C12H14N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-methoxyethyl)-4-phenyl-2-imidazolidone | COCCN1C(NC(C1)C1=CC=CC=C1)=O | C12H16N2O2
